US07169817B2
Step C: Acetic Acid 2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl Ester
Acetic acid 4-acetoxy-2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl ester (5 mmol) is dissolved in EtOH (50 mL) and hydrogenated at atmospheric pressure using 10% Pd-C (10%) at room temperature for 12 h. After filtration and concentration, the crude product is obtained as a white solid and used in the next step without further purification. MS: (ES+): 398.2 (M+1)+.

reactant | Acetic acid 4-acetoxy-2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl ester | 5 mmol | C(C)(=O)OC(CC(COC(C)=O)(NC(C)=O)COC(C)=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H29NO7
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | Acetic Acid 2-acetoxymethyl-2-acetylamino-4-biphenyl-4-yl-butyl Ester | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)C1=CC=CC=C1)NC(C)=O | C23H27NO5
